US07176322B2
9-Ethyl-6-methoxycarbazole-3-carboxaldehyde
A solution of 9-ethyl-3-hydroxymethyl-6-methoxycarbazole (0.305 g, 1.2 mmol) in acetone (5 mL) was treated with MnO2 (0.52 g, 6 mmol) and the reaction stirred at room temperature for 60 hours. The reaction mixture was filtered and the solvent evaporated under reduced pressure. The crude was purified by column chromatography (heptane/ethyl acetate 5/1) to afford 0.190 mg of the title compound.

reactant | 9-ethyl-3-hydroxymethyl-6-methoxycarbazole | 1.2 mmol, 0.305 g | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)CO)OC | C16H17NO2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 6 mmol, 0.52 g | O=[Mn]=O
product | 9-Ethyl-6-methoxycarbazole-3-carboxaldehyde | 0.190 mg | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)OC | C16H15NO2
